US05441949
To a solution of 2-carboxy-6-nitroquinoline (1.5 g; 6.8 mM) in THF (30 ml) was added triphenylphosphine (2.7 g; 10.2 mM), allyl alcohol (0.7 ml; 10.2 mM) and DEAD (1.63 ml; 10.2 mM). After stirring at ambient temperature for 30 minutes, the mixture was extracted with ethyl acetate and purified by subjecting to flash chromatography, eluting with ethyl acetate/petroleum ether (40/60) to give 2-allyloxycarbonyl-6-nitroquinoline (1.2 g; 71%).

reactant | 2-carboxy-6-nitroquinoline | 6.8 mM, 1.5 g | C(=O)(O)C1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H6N2O4
reactant | triphenylphosphine | 10.2 mM, 2.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | allyl alcohol | 10.2 mM, 0.7 ml | C(C=C)O | C3H6O
reactant | DEAD | 10.2 mM, 1.63 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-allyloxycarbonyl-6-nitroquinoline | 1.2 g, 71% | C(C=C)OC(=O)C1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C13H10N2O4
